US06436964B1
2-Pyridyl-1-cyclohexylethane (2 g, 10.6 mmol, prepared above) was dissolved in THF (20 mL) and cooled to −78° C. N-Butyllithium (13 mL of a 1.6 M solution in THF, 21.2 mmol) was added to the cooled solution. After stirring for 10 minutes, the cooling bath was removed and after 10 minutes, when the reaction had reached room temperature, it was re-cooled to −78° C. Bromoacetaldehyde diethyl acetal (2.1 g, 10.6 mmol) was then added and after one hour the cooling bath was removed. After 1.5 hours, n-Bu4NBr was added and the reaction was then stirred overnight. Water was then added and the quenched reaction was extracted with ethyl acetate (3 times). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by flash chromatography to provide 2-pyridyl-3-cyclohexyl-butyraldehyde diethyl acetal (1.5 g, 46%).

reactant | 2-Pyridyl-1-cyclohexylethane | 10.6 mmol, 2 g | N1=C(C=CC=C1)C(C)C1CCCCC1 | C13H19N
reactant | N-Butyllithium | [Li+].CCC[CH2-]
reactant | Bromoacetaldehyde diethyl acetal | 10.6 mmol, 2.1 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-pyridyl-3-cyclohexyl-butyraldehyde diethyl acetal | 1.5 g, 46% | C(C)OC(C(C(C)C1CCCCC1)C1=NC=CC=C1)OCC | C19H31NO2
